US20010056184A1
(a) (2R,4S)-4-Hydroxy-2-methoxycarbonyl-1-[4-(4-methoxyphenyl)benzenesulfonyl]-piperidine
(2R,4S)-4-Hydroxypipecolinic acid methyl ester (2.8 g) was dissolved in THF/H2O (2:1, 45 mL), then NaHCO3 (1.63 g) and 4-(4-methoxyphenyl)benzenesulfonylchloride (5.47 g) were added at 0° C., and the mixture was stirred for 3 h at room temperature.

reactant | (2R,4S)-4-Hydroxypipecolinic acid methyl ester | 2.8 g | COC([C@@H]1NCC[C@@H](C1)O)=O | C7H13NO3
reactant | NaHCO3 | 1.63 g | C(=O)(O)[O-].[Na+]
reactant | 4-(4-methoxyphenyl)benzenesulfonylchloride | 5.47 g | COC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C13H11ClO3S
solvent | THF H2O | 45 mL | C1CCOC1.O
product | (2R,4S)-4-Hydroxy-2-methoxycarbonyl-1-[4-(4-methoxyphenyl)benzenesulfonyl]-piperidine | O[C@@H]1C[C@@H](N(CC1)S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC)C(=O)OC | C20H23NO6S
